US04695581
2,6-Diethylanisole and propionyl chloride were treated in the same way as in step (a) of Example 30 to give 2,6-diethyl-4-propionylanisole.

reactant | 2,6-Diethylanisole | C(C)C1=C(C(=CC=C1)CC)OC | C11H16O
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 2,6-diethyl-4-propionylanisole | C(C)C1=C(C(=CC(=C1)C(CC)=O)CC)OC | C14H20O2
